US05495020
To ethyl 7-(4-methyl-l-piperazinyl)-l-cyclopropyl-6-fluoro-5,8-dimethyl-1,4-dihydro-4 -oxoquinoline-3carboxylate (25 mg) are added 10% aqueous solution of sodium hydroxide (3 ml) and ethanol (3 ml), and the mixture is refluxed for 1 hour. After cooling, the reaction mixture is diluted with water and washed with dichloromethane. The aqueous layer is made acidic with acetic acid and then made weak alkaline with an aqueous sodium hydrogen carbonate. The resultant is extracted with dichloromethane and the extract is dried. The solvent is distilled off under reduced pressure and to the residue is added diethyl ether. The precipitated crystals are filtered and recrystallized from ethanol to give 7-(4-methyl-1-piperazinyl)-1-cyclopropyl-6-fluoro-5,8-dimethyl-1, 4-dihydro-4-oxoquinoline-3-carboxylic acid (14 mg), as yellow crystals, m.p. 205°-206° C.

reactant | ethyl 7-(4-methyl-l-piperazinyl)-l-cyclopropyl-6-fluoro-5,8-dimethyl-1,4-dihydro-4 -oxoquinoline-3carboxylate | 25 mg | CN1CCN(CC1)C1=C(C(=C2C(C(=CN(C2=C1C)C1CC1)C(=O)OCC)=O)C)F | C22H28FN3O3
reactant | sodium hydroxide | 3 ml | [OH-].[Na+]
reactant | ethanol | 3 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 7-(4-methyl-1-piperazinyl)-1-cyclopropyl-6-fluoro-5,8-dimethyl-1, 4-dihydro-4-oxoquinoline-3-carboxylic acid | 14 mg | CN1CCN(CC1)C1=C(C(=C2C(C(=CN(C2=C1C)C1CC1)C(=O)O)=O)C)F | C20H24FN3O3
